US06538000B1
7,7-Dimethyl-9-(5-nitro-3-thienyl)-5,6,7,9-tetrahydropyrazolo[5,1-b]quinazolin-8(4H)-one
4,4-Dimethyl-1,3-cyclohexanedione, 4-formyl-2-nitrothiophene and 3-aminopyrazole were processed as described in General Procedure A to provide the title compound.

reactant | 4,4-Dimethyl-1,3-cyclohexanedione | CC1(C(CC(CC1)=O)=O)C | C8H12O2
reactant | 4-formyl-2-nitrothiophene | C(=O)C=1C=C(SC1)[N+](=O)[O-] | C5H3NO3S
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 7,7-Dimethyl-9-(5-nitro-3-thienyl)-5,6,7,9-tetrahydropyrazolo[5,1-b]quinazolin-8(4H)-one | CC1(C(C=2C(N3C(NC2CC1)=CC=N3)C3=CSC(=C3)[N+](=O)[O-])=O)C | C16H16N4O3S
